// Generated for: spectre
// Generated on: Nov  6 10:58:19 2015
// Design library name: cse562
// Design cell name: mirror4
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters tW=15u tL=.5u
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06N.m"
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06P.m"

// Library name: cse562
// Cell name: mirror4
// View name: schematic
V1 (net6 0) vsource type=dc
V0 (vdd! 0) vsource type=dc dc=3
N5 (vdd! net6 0 0) ami06N w=tW l=tL as=tW * 2.5 * (600n) ad=tW * 2.5 * (600n) \
         ps=(2 * tW) + (5 * (600n)) pd=(2 * tW) + (5 * (600n)) m=1 \
        region=sat
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc dev=V1 param=dc start=0 stop=.1 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save N5:d 
saveOptions options save=allpub
